US04788130
16.09 Grams of 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-(4-methoxybenzylidene)-1H-inden-1-one was dissolved in a mixed solvent of 150 ml of ethyl acetate with 100 ml of acetic acid, this solution was let subjected to catalytic reduction at room temperature under 3 atmospheric hydrogen gas pressure in the presence of 1.5 g of palladium black as the hydrogenation catalyst. After the catalytic reduction, the catalyst was removed by filtration, and the filtrate was concentrated by removing the solvent under reduced pressure. The residue thus obtained was purified by a silica gel column chromatography (eluent: n-hexane: ethyl acetate =9:1) to obtain 8.5 g of 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-(4-methoxybenzyl)-1H-inden-1-one as in the form of colorless oily substance.

reactant | 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-(4-methoxybenzylidene)-1H-inden-1-one | CC1=C2CC(C(C2=C(C(=C1)C)O)=O)=CC1=CC=C(C=C1)OC | C19H18O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 1.5 g | [Pd] | Pd
product | 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-(4-methoxybenzyl)-1H-inden-1-one | 8.5 g | CC1=C2CC(C(C2=C(C(=C1)C)O)=O)CC1=CC=C(C=C1)OC | C19H20O3
